US05547954
This compound is prepared in a manner analogous to that of Step B of Example 2, using 44.6 grams (0.126 mole) of ethyl 3-oxo-2-[3,5-di(trifluoromethyl)phenylmethylidene]butanoate and 1.5 grams (catalyst) of 5% palladium on charcoal in 250 mL of ethyl acetate, yielding ethyl 3-oxo-2-[3,5-di(trifluoromethyl)phenylmethyl]butanoate.

reactant | ethyl 3-oxo-2-[3,5-di(trifluoromethyl)phenylmethylidene]butanoate | 0.126 mole, 44.6 grams | O=C(C(C(=O)OCC)=CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C15H12F6O3
catalyst | palladium on charcoal | 1.5 grams | [Pd] | Pd
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-oxo-2-[3,5-di(trifluoromethyl)phenylmethyl]butanoate | O=C(C(C(=O)OCC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C15H14F6O3
